US05506239
Using 3 g of 1-(2-aminoethyl)-4-methoxymethoxypiperidine and 2 g of cyclooctanone, 4.3 g of 1-(2-cyclooctylaminoethyl)-4-methoxymethoxypiperidine was obtained in the same manner as in Reference Example 1.

reactant | 1-(2-aminoethyl)-4-methoxymethoxypiperidine | 3 g | NCCN1CCC(CC1)OCOC | C9H20N2O2
reactant | cyclooctanone | 2 g | C1(CCCCCCC1)=O | C8H14O
product | 1-(2-cyclooctylaminoethyl)-4-methoxymethoxypiperidine | 4.3 g | C1(CCCCCCC1)NCCN1CCC(CC1)OCOC | C17H34N2O2
